US20010027194A1
C. Preparation of 2-methyl-4-hydroxybenzaldehyde
The compound of Step B, 13.54 g (76.9 mmole), 1.72 g (7.69 mmole) palladium acetate, and 12.09 g (46.2 mmole) triphenylphosphine were mixed in a 250ml flask. Formic acid, 3.2 ml (84.6 mmole), was added and the reaction was swirled. Within 15 seconds, the reaction foamed, exothermed and formed a gum which was dissolved in ethyl acetate, washed once with sodium bicarbonate and once with brine. The organic layer was chromatographed on 350 ml silica, eluting with 20%, then 40% ethyl acetate/hexane. The fractions were combined and the product crystallized from methylene chloride/hexane to give 3.61 g (35%) of product which was used without further purification.

reactant | triphenylphosphine | 46.2 mmole, 12.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Formic acid | C(=O)O | CH2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 7.69 mmole, 1.72 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-methyl-4-hydroxybenzaldehyde | 3.61 g, 35% | CC1=C(C=O)C=CC(=C1)O | C8H8O2
